US06265572B1
To the suspension of (2S,3R)-3-(4-hydroxyphenyl)pyrolidine-2-carboxylic acid methyl ester hydrochloride (100 mg, 0.38 mmol), prepared in Example 20, in THF (2 mL) was added DIPEA (65 mg, 0.5 mmol) and Boc2O (218 mg, 1 mmol) at 20° C. The solution was then stirred at room temperature for 16 hours and was diluted with ethyl acetate (20 mL). The solution was then washed with saturated sodium bicarbonate (2×5 mL) and brine (2×5 mL) and was concentrated. The residue was filtered through silica gel to give (2S,3R)-1-[(1,1-dimethylethoxyl)carbonyl]-3-(4-hydroxyphenyl)pyrolidine-2-carboxylic acid methyl ester as a colorless oil (113 mg). This oil was then dissolved in MeOH/THF (2 mL/1 mL) and the resulting solution was treated with 1N sodium hydroxide (0.7 mL, 0.7 mmol). The solution was stirred at room temperature for 4 hours. and was acidified with acetic acid. The crude product was purified by reverse-phase HPLC (5-95% of acetonitrile containing 0.75% of TFA in water over 40 min linear gradient) to give (2S,3R)-1-[(1,1-dimethylethoxyl)carbonyl]-3-(4-hydroxyphenyl)pyrolidine-2-carboxylic acid as white solid (70 mg, 0.22 mmol). HRMS (M+H): Obs. 308.1511, Calcd. 308.1498.

reactant | (2S,3R)-3-(4-hydroxyphenyl)pyrolidine-2-carboxylic acid methyl ester hydrochloride | 0.38 mmol, 100 mg | Cl.COC(=O)[C@H]1NCC[C@@H]1C1=CC=C(C=C1)O
reactant | DIPEA | 0.5 mmol, 65 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 1 mmol, 218 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (2S,3R)-1-[(1,1-dimethylethoxyl)carbonyl]-3-(4-hydroxyphenyl)pyrolidine-2-carboxylic acid methyl ester | 113 mg | COC(=O)[C@H]1N(CC[C@@H]1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C17H23NO5
